US04518597
5-[4-(3,4-Dichloro-phenylsulfinyl)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 4 from 5-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 4-(3,4-dichloro-phenylsulfinyl)-butylbromide.

reactant | 5-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one | OC1=CC=CC2=C1C(OC(N2)=O)(C)C | C10H11NO3
reactant | 4-(3,4-dichloro-phenylsulfinyl)-butylbromide | ClC=1C=C(C=CC1Cl)S(=O)CCCCBr | C10H11BrCl2OS
product | 5-[4-(3,4-Dichloro-phenylsulfinyl)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC=1C=C(C=CC1Cl)S(=O)CCCCOC1=CC=CC2=C1C(OC(N2)=O)(C)C | C20H21Cl2NO4S
